US06927228B2
(d) (5′-Methylaminomethyl[1,1′;3′,1″]terphenyl-4″-yl)methanol
1 g (26 mmol) of lithium aluminum hydride in 20 ml of tetrahydrofuran are introduced into a round-bottomed flask under a stream of nitrogen. The medium is cooled to 0° C. and a solution of 1.4 g (4.4 mmol) of 4″-formyl-N-methyl[1,1′;3′,1″]terphenyl-5′-carboxamide in 30 ml of tetrahydrofuran is added dropwise. The reaction medium is refluxed for 48 hours. It is then allowed to cool to room temperature and aqueous sodium sulfate solution is added dropwise. After 30 minutes, the medium is acidified to pH 5 and extracted with ethyl acetate. The organic phase is dried over magnesium sulfate, filtered and then evaporated. The residue is purified by chromatography on a column of silica eluted with a dichloromethane/ethanol mixture (9/1) and 660 mg (49%) of the expected product are obtained in the form of a white solid.

reactant | lithium aluminum hydride | 26 mmol, 1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4″-formyl-N-methyl[1,1′;3′,1″]terphenyl-5′-carboxamide | 4.4 mmol, 1.4 g | C(=O)C1=CC=C(C=C1)C=1C=C(C=C(C1)C(=O)NC)C1=CC=CC=C1 | C21H17NO2
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (5′-Methylaminomethyl[1,1′;3′,1″]terphenyl-4″-yl)methanol | CNCC=1C=C(C=C(C1)C1=CC=CC=C1)C1=CC=C(C=C1)CO | C21H21NO
